US05187293
A solution of 0.07 g of (R)-1-O-[(2-chloroethyl) carbamoyl]-2-O-(methoxycarbonyl)-3-O-octadecylglycerine in 10 ml of pyridine is heated at 80° C. for 3 days. The solution is evaporated and the residue is recrystallized from acetone-n-hexane. There is obtained 1-[2-[1-[(R)-2-[(methoxycarbonyl)oxy]-3-(octadecyloxy)propoxy]formamido]-ethyl]pyridinium chloride of melting point 83° C. (dec.).

reactant | (R)-1-O-[(2-chloroethyl) carbamoyl]-2-O-(methoxycarbonyl)-3-O-octadecylglycerine | 0.07 g | ClCCNC(=O)OC[C@H](OC(=O)OC)COCCCCCCCCCCCCCCCCCC | C26H50ClNO6
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-[2-[1-[(R)-2-[(methoxycarbonyl)oxy]-3-(octadecyloxy)propoxy]formamido]-ethyl]pyridinium chloride | [Cl-].COC(=O)O[C@@H](COC(=O)NCC[N+]1=CC=CC=C1)COCCCCCCCCCCCCCCCCCC | InChI=1S/C31H54N2O6.ClH/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-21-26-37-27-29(39-31(35)36-2)28-38-30(34)32-22-25-33-23-19-18-20-24-33;/h18-20,23-24,29H,3-17,21-22,25-28H2,1-2H3;1H/t29-;/m1./s1
